US05807859
The process is performed as in Example 3 for the preparation of 10-(2-carboxybenzylidene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one but starting with 3.3 g of 5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one, 66 ml of dimethyl sulphoxide, 2.35 g of ethyl 5-oxopentanoate and 1.06 g of sodium hydride. After treatment of the reaction mixture with water (66 ml) and with acetic acid (6.6 ml), the suspension obtained is filtered, the insoluble product is washed with water (50 ml), with methanol (25 ml) and then with ethyl ether (2×25 ml) and dried at 60° C. under reduced pressure. The solid obtained is suspended in a mixture of 70 ml of ethanol and 6 ml of 1ON sodium hydroxide, filtered off, washed with ethanol and purified by dissolution in 15 ml of water and precipitation with 15 ml of IN hydrochloric acid. The precipitate is filtered off, washed with water (2×10 ml), triturated at the reflux of methanol (200 ml), filtered off and dried. 0.4 g of 5-(4-hydroxyimidazo[1,2-a]indeno-[1,2-e]pyrazin-10-ylidene]pentanoic acid is obtained, which product is converted into the disodium salt of formula C18H13N3O3Na2 (Analysis, % calculated C: 59.18, H: 3.59, N: 11.50, O: 13.14, Na: 12.59, % found C 58.8, H: 3.4, N: 11.5).

reactant | 10-(2-carboxybenzylidene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | C(=O)(O)C1=C(C=C2C=3C=CC=CC3C=3NC(C=4N(C32)C=CN4)=O)C=CC=C1 | C21H13N3O3
reactant | 5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one | 3.3 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | ethyl 5-oxopentanoate | 2.35 g | O=CCCCC(=O)OCC | C7H12O3
reactant | sodium hydride | 1.06 g | [H-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 6 ml | [OH-].[Na+]
solvent | acetic acid | 6.6 ml | C(C)(=O)O | C2H4O2
solvent | water | 66 ml | O | H2O
solvent | dimethyl sulphoxide | 66 ml | CS(=O)C | C2H6OS
product | 5-(4-hydroxyimidazo[1,2-a]indeno-[1,2-e]pyrazin-10-ylidene]pentanoic acid | 0.4 g | OC=1C=2N(C3=C(N1)C=1C=CC=CC1C3=CCCCC(=O)O)C=CN2 | C18H15N3O3
